US08748624B2
Neat chloro(methoxy)methane (1.8 mL, 23.8 mmol) was added to a MeCN solution (20 mL) of 3-chloro-5-(trifluoromethyl)phenol (3.6 g, 18.3 mmol) and Cs2CO3 and the resulting mixture was stirred at room temperature. After 5 h the resulting mixture was diluted with diethyl ether, filtered and concentrated. The resulting material was filtered through a short pad of silica gel, followed by concentration to yield 1-chloro-3-(methoxymethoxy)-5-(trifluoromethyl)benzene.

reactant | chloro(methoxy)methane | 23.8 mmol, 1.8 mL | ClCOC | C2H5ClO
reactant | MeCN | 20 mL | CC#N | C2H3N
reactant | 3-chloro-5-(trifluoromethyl)phenol | 18.3 mmol, 3.6 g | ClC=1C=C(C=C(C1)C(F)(F)F)O | C7H4ClF3O
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-chloro-3-(methoxymethoxy)-5-(trifluoromethyl)benzene | ClC1=CC(=CC(=C1)C(F)(F)F)OCOC | C9H8ClF3O2
